US08283354B2
A 2.0 M HCl solution in Et2O (318 μL, 0.636 mmol) was slowly added to a stirring solution of benzyl(R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate (289 mg, 0.636 mmol) in 2.1 mL of CH2Cl2. Solvents were removed under reduced pressure and the residue was triturated with Et2O and filtered to give benzyl(R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate hydrochloride. LC/MS: m/z 455.2 (M+H)+ at 2.80 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | HCl | 2.0 M | Cl | ClH
reactant | Et2O | 0.636 mmol, 318 μL | CCOCC | C4H10O
reactant | benzyl(R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate | 0.636 mmol, 289 mg | OC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)NC(OCC1=CC=CC=C1)=O)C | C27H26N4O3
solvent | CH2Cl2 | 2.1 mL | C(Cl)Cl | CH2Cl2
product | benzyl(R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate hydrochloride | Cl.OC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)NC(OCC1=CC=CC=C1)=O)C | InChI=1S/C27H26N4O3.ClH/c1-18-11-12-21-23(15-18)29-25(22-9-5-6-10-24(22)32)30-26(21)31-14-13-20(16-31)28-27(33)34-17-19-7-3-2-4-8-19;/h2-12,15,20,32H,13-14,16-17H2,1H3,(H,28,33);1H/t20-;/m1./s1
